US07696201B2
tert-Butyl 4-(2-oxo-1,2-dihydrospiro[benzo[d][1,3]oxazine-4,4′-piperidine]-1′-yl)piperidine-1-carboxylate (vib) (432 mg, 1.08 mmol) was dissolved in 3.0 N methanolic HCl (10 mL) and stirred at room temperature for 18 hours. Additional 3.0 N methanolic HCl was added (10 mL) and the reaction heated at 60° C. for 2 hours. The reaction mixture was concentrated under reduced pressure, treated with acetonitrile (approx. 25 mL) and re-concentrated to afford 1′-(piperidin-4-yl)spiro[benzo[d][1,3]oxazine-4,4′-piperidin]-2(1H)-one (compound no. 49) bis-hydrochloride as a crystalline white solid. LC/MS m/z 302.0 [M+H]+, retention time 0.34 min (RP-C18, 10-99% CH3CN/0.05% TFA).

reactant | tert-Butyl 4-(2-oxo-1,2-dihydrospiro[benzo[d][1,3]oxazine-4,4′-piperidine]-1′-yl)piperidine-1-carboxylate | 1.08 mmol, 432 mg | O=C1OC2(CCN(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)C2=C(N1)C=CC=C2 | C22H31N3O4
solvent | HCl | 3.0 N, 10 mL | Cl | ClH
solvent | HCl | 3.0 N | Cl | ClH
product | 1′-(piperidin-4-yl)spiro[benzo[d][1,3]oxazine-4,4′-piperidin]-2(1H)-one | N1CCC(CC1)N1CCC2(CC1)C1=C(NC(O2)=O)C=CC=C1 | C17H23N3O2
